US07622583B2
2-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-4-iodo-pyridine
2-Fluoro-4-iodo-pyridine (607mg, 2.72 mmol), ethylene glycol (760uL, 13.6 mmol) and 60% sodium hydride (120 mg, 2.99 mmol) were sequentially added to 2 mL of anhydrous DMF at room temperature. The solution was then brought to 60° C. and stirred for 2 hours, then cooled down and diluted with 20 mL of water. The mixture was extracted 2 times with 30 mL of diethyl ether. The combined organic layers were washed with 10 mL of water, then 10 mL of brine and dried over anhydrous magnesium sulfate. After concentrating the mixture under reduced pressure, the residue was dissolved in 2 mL of anhydrous acetonitrile. To this solution tert-butylchlorodimethylsilane (453 mg, 3.00 mmol) and triethylamine (459 μL, 3.30 mmol) were added and the mixture was stirred at r.t. for 3 days following evaporation under reduced pressure. The residue was taken up in 40 mL of a 1:1 mixture of diethyl ether and water. The organic layer was concentrated under reduced pressure and the residue purified on a 40 g silica column eluted with a gradient of 0-15% ethyl acetate in hexanes to yield 630 mg of the product as colorless oil. MS: (M+H)/z=380.0.

reactant | 2-Fluoro-4-iodo-pyridine | 2.72 mmol, 607mg | FC1=NC=CC(=C1)I | C5H3FIN
reactant | ethylene glycol | 13.6 mmol, 760uL | C(CO)O | C2H6O2
reactant | sodium hydride | 2.99 mmol, 120 mg | [H-].[Na+]
reactant | tert-butylchlorodimethylsilane | 3.00 mmol, 453 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | triethylamine | 3.30 mmol, 459 μL | C(C)N(CC)CC | C6H15N
solvent | water | 20 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-4-iodo-pyridine | 630 mg | C(C)(C)(C)[Si](OCCOC1=NC=CC(=C1)I)(C)C | C13H22INO2Si
